US06835513B2
N-propylphenyl-3, 6-diformyl carbazole was prepared from DMF (204 ml, 2.64 mol), POCl3 (246 ml, 264 mol), and N-propylphenylcarbazole (107.84 g, 0.38 mol) according to the procedure described for Compound N-Heptyl-3,6-Diformylcarbazole. A brownish solid was obtained which was recrystallized from THF/water to yield 91.5 g (70% yield) of the product.

reactant | DMF | 2.64 mol, 204 ml | CN(C)C=O | C3H7NO
reactant | POCl3 | 264 mol, 246 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-propylphenylcarbazole | 0.38 mol, 107.84 g | C(CC)N1C2=CC=CC=C2C=2C=CC=C(C12)C1=CC=CC=C1 | C21H19N
reactant | N-Heptyl-3,6-Diformylcarbazole | C(CCCCCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C=O)C=O | C21H23NO2
product | N-propylphenyl-3, 6-diformyl carbazole | C(CC)N1C2=CC=C(C=C2C=2C=C(C=C(C12)C1=CC=CC=C1)C=O)C=O | C23H19NO2
